US06541505B1
N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-methoxyethoxy)-pyrimidin-4-yl]benzamide.
To a solution of 2-methoxyethanol (0.118 mL, 1.50 mmoles) in DMSO (5 mL) was added sodium hydride (Aldrich, 60% dispersion, 0.0720 g, 1.80 mmoles), followed by stirring until H2 evolution ceased (15 minutes). One milliliter of this alkoxide stock solution was added to N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloropyrimidin-4-yl]benzamide (0.147 g, 0.249 mmoles, reference example 1az), followed by heating (60° C.). After two hours, another 0.5 mL of the alkoxide stock solution was added. After two more hours, the reaction was quenched with water (40 mL) and the resulting precipitate collected by filtration. The precipitate was washed with water and CH2Cl2 and dried under vacuum to give the product as a white solid. MS (ion spray) m/z 442 (M+H)+.

reactant | 2-methoxyethanol | 1.50 mmoles, 0.118 mL | COCCO | C3H8O2
reactant | sodium hydride | 1.80 mmoles, 0.0720 g | [H-].[Na+]
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloropyrimidin-4-yl]benzamide | 0.249 mmoles, 0.147 g | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-methoxyethoxy)-pyrimidin-4-yl]benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)OCCOC)=O | C25H23N5O3
